US05726165
(S)-1-(4-Benzyloxyphenoxy)-3-[N-2-(4-hydroxyphenyl)ethylamino]propan-2-ol
The title compound was prepared from tyramine and (S)-2-(4-benzyloxyphenoxymethyl)oxirane according to the method described in Procedure 13.

reactant | tyramine | NCCC1=CC=C(C=C1)O | C8H11NO
reactant | (S)-2-(4-benzyloxyphenoxymethyl)oxirane | C(C1=CC=CC=C1)OC1=CC=C(OC[C@H]2OC2)C=C1 | C16H16O3
product | (S)-1-(4-Benzyloxyphenoxy)-3-[N-2-(4-hydroxyphenyl)ethylamino]propan-2-ol | C(C1=CC=CC=C1)OC1=CC=C(OC[C@H](CNCCC2=CC=C(C=C2)O)O)C=C1 | C24H27NO4
